US07723329B2
N,N-Dimethyl-N-{2-[3-(phenylsulfonyl)-1H-indazol-7-yl]ethyl}amine hydrochloride
2-[3-(Phenylsulfonyl)-1H-indazol-7-yl]ethyl 4-methylbenzenesulfonate To a solution of 2-[3-(phenylsulfonyl)-1H-indazol-7-yl]ethanol (0.64 g, 2.12 mmol) in anhydrous dichloromethane (30 mL) at 0° C. was added pyridine (0.43 mL) and toluenesulfonyl chloride (0.475 g, 2.5 mmol). The solution was stirred for 12 hours at room temperature. The mixture was concentrated in vacuo and taken up in ethyl acetate (30 mL). The organic layer was washed with 2 M HCl, (2×25 mL), brine, dried (MgSO4), filtered and concentrated under reduced pressure. Silica gel chromatography (50% ethyl acetate/petroleum ether) gave the title compound as a white foam (0.9 g, 93%). Mp: 61-64° C. MS (ES−): 455 (M−H) Step 7

reactant | 2-[3-(Phenylsulfonyl)-1H-indazol-7-yl]ethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1C=CC=C2C(=NNC12)S(=O)(=O)C1=CC=CC=C1 | C22H20N2O5S2
reactant | 2-[3-(phenylsulfonyl)-1H-indazol-7-yl]ethanol | 2.12 mmol, 0.64 g | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=C(C=CC=C12)CCO | C15H14N2O3S
reactant | pyridine | 0.43 mL | N1=CC=CC=C1 | C5H5N
reactant | toluenesulfonyl chloride | 2.5 mmol, 0.475 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N,N-Dimethyl-N-{2-[3-(phenylsulfonyl)-1H-indazol-7-yl]ethyl}amine hydrochloride | 0.9 g, 93% | Cl.CN(CCC=1C=CC=C2C(=NNC12)S(=O)(=O)C1=CC=CC=C1)C | InChI=1S/C17H19N3O2S.ClH/c1-20(2)12-11-13-7-6-10-15-16(13)18-19-17(15)23(21,22)14-8-4-3-5-9-14;/h3-10H,11-12H2,1-2H3,(H,18,19);1H
